US03983133
To a stirred solution of 4.6 parts of 2-amino-1-(2-chloroethyl)-5-(o-chlorophenyl)-2-imidazoline hydrochloride in 12 parts of methanol is added a solution of 0.725 parts of sodium in 12 parts of methanol. The whole is stirred and refluxed for 1 hr. 30 minutes. The reaction mixture is evaporated and to the residue is added 50 parts of water and a small amount of a 10N sodium hydroxide solution. The product is extracted twice with 40 parts of methylene chloride. The combined extracts are dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanol and diisopropylether. The salt is filtered off, washed with acetone and dried, yielding 5-(o-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride; m.p. 215°-222°C.

reactant | 2-amino-1-(2-chloroethyl)-5-(o-chlorophenyl)-2-imidazoline hydrochloride | Cl.NC=1N(C(CN1)C1=C(C=CC=C1)Cl)CCCl
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 5-(o-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride | Cl.ClC1=C(C=CC=C1)C1CN=C2N1CCN2 | InChI=1S/C11H12ClN3.ClH/c12-9-4-2-1-3-8(9)10-7-14-11-13-5-6-15(10)11;/h1-4,10H,5-7H2,(H,13,14);1H
